US04329358
N-(2-[4-Carbomethoxyphenyl]-1-methylethyl)-2-(3-chlorophenyl)-2-hydroxyethanamine
3-Chlorophenylglyoxal (1.6 g) and 2-(4-carbomethoxyphenyl)ethanamine (1.8 g) were heated in refluxing benzene (100 ml) under a Dean and Stark head until the theoretical amount of water had been collected. The solvent was replaced with methanol (100 ml) and sodium borohydride (2.5 g) was added portionwise with ice cooling. The mixture was stirred for 2 h, the solvent was evaporated and the residue was paritioned between water (100 ml) and chloroform (100 ml). The dried organic extract was evaporated and crystallised from methanol to give a single diastereoisomer m.p. 94°-96° (0.19 g) (less active diasteroisomer).

reactant | 3-Chlorophenylglyoxal | 1.6 g | ClC=1C=C(C=CC1)C(=O)C=O | C8H5ClO2
reactant | 2-(4-carbomethoxyphenyl)ethanamine | 1.8 g | C(=O)(OC)C1=CC=C(C=C1)CCN | C10H13NO2
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | N-(2-[4-Carbomethoxyphenyl]-1-methylethyl)-2-(3-chlorophenyl)-2-hydroxyethanamine | C(=O)(OC)C1=CC=C(C=C1)CC(C)NCC(O)C1=CC(=CC=C1)Cl | C19H22ClNO3
